US07728010B2
Step 1. Synthesis of methyl-5-(4-nitrophenoxy)pyridine-3-carboxylate
The mixture containing methyl-5-hydroxypyridine-3-carboxylate (1 eq), Potassium bis(trimethylsilyl)amide (1.2 eq) was stirred in N,N-dimethylformamide for 2 hours at room temperature. To this mixture was added 1-fluoro-4-nitrobenzene (1.1 eq) and Potassium carbonate (1.2 eq) and stirred at 80° C. for 16 h. The reaction mixture was then concentrated and partitioned between ethyl acetate and water. The organic layer was separated and washed with brine, dried, filtered and concentrated in vacuum to give brown solid. Purification on silica gel methyl-5-(4-nitrophenoxy)pyridine-3-carboxylate. MS: MH+=274.

reactant | methyl-5-hydroxypyridine-3-carboxylate | 1 eq | COC(=O)C=1C=NC=C(C1)O | C7H7NO3
reactant | Potassium bis(trimethylsilyl)amide | 1.2 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1-fluoro-4-nitrobenzene | 1.1 eq | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Potassium carbonate | 1.2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methyl-5-(4-nitrophenoxy)pyridine-3-carboxylate | COC(=O)C=1C=NC=C(C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H10N2O5
